US06255494B1
Preparation of 4-(prop-2-enyl)-2-[(4-chlorophenoxy)methyl]-1-[3-[1-(t-butoxycarbonyl)piperidin-4-yl]propyl]benzimidazole
In a 100 ml round bottom flask, under a nitrogen atmosphere, were added 4-(prop-2-enyl)-2-[(4-chlorophenoxy)methyl]benzimidazole (550 mg, 1.84 mmol) and anhydrous N,N-dimethylformamide (59 ml). To this solution was added sodium hydride (60% in mineral oil, 81.04 mg, 2.03 mmol). The resulting mixture was stirred at room temperature for 60 minutes, and then 3-[1-(t-butoxycarbonyl)piperidin-4-yl]propyl bromide (620 mg, 2.03 mmol) was added. The resulting mixture was heated to 100° C. and stirred at this temperature for about three hours. The progress of the reaction was monitored by thin layer chromatography. The reaction mixture was partitioned between ethyl acetate and brine. The aqueous fraction was extracted twice with brine. The organic fractions were combined and dried over sodium sulfate. The solvents were removed in vacuo. The desired title product was further purified by radial chromatography.

reactant | 4-(prop-2-enyl)-2-[(4-chlorophenoxy)methyl]benzimidazole | 1.84 mmol, 550 mg | C(C=C)C1=CC=CC=2N=C(NC21)COC2=CC=C(C=C2)Cl | C17H15ClN2O
reactant | sodium hydride | 2.03 mmol, 81.04 mg | [H-].[Na+]
reactant | 3-[1-(t-butoxycarbonyl)piperidin-4-yl]propyl bromide | 2.03 mmol, 620 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)CCCBr | C13H24BrNO2
solvent | N,N-dimethylformamide | 59 ml | CN(C=O)C | C3H7NO
product | 4-(prop-2-enyl)-2-[(4-chlorophenoxy)methyl]-1-[3-[1-(t-butoxycarbonyl)piperidin-4-yl]propyl]benzimidazole | C(C=C)C1=CC=CC=2N(C(=NC21)COC2=CC=C(C=C2)Cl)CCCC2CCN(CC2)C(=O)OC(C)(C)C | C30H38ClN3O3
